US07632838B2
3-chloro-N-{1-[3-(trifluoromethyl)pyridin-2-yl]piperidin-4-yl}benzenesulfonamide
Using the procedure from Example 17A, Step 17C, 1-[3-(trifluoromethyl)pyridin-2-yl]piperidin-4-amine (100 mg, 0.42 mmol) was reacted with 3-chlorobenzenesulfonyl chloride (106 mg, 0.50 mmol) to afford the title compound (71 mg), a white solid, in 40% yield.

reactant | 1-[3-(trifluoromethyl)pyridin-2-yl]piperidin-4-amine | 0.42 mmol, 100 mg | FC(C=1C(=NC=CC1)N1CCC(CC1)N)(F)F | C11H14F3N3
reactant | 3-chlorobenzenesulfonyl chloride | 0.50 mmol, 106 mg | ClC=1C=C(C=CC1)S(=O)(=O)Cl | C6H4Cl2O2S
product | 3-chloro-N-{1-[3-(trifluoromethyl)pyridin-2-yl]piperidin-4-yl}benzenesulfonamide | 71 mg, 40% yield | ClC=1C=C(C=CC1)S(=O)(=O)NC1CCN(CC1)C1=NC=CC=C1C(F)(F)F | C17H17ClF3N3O2S
